US07404969B2
1-(4,4′-Dimethoxytrityloxy)-3-dimethylamino-2-propanol (5)
3-Dimethylamino-1,2-propanediol (6.0 g, 50 mmol) was weighed into a 1 L round bottomed flask with a stir bar. The flask was sealed, flushed with argon, charged with pyridine and cooled to 0° C. 4,4′-Dimethoxytrityl chloride (17.9 g, 1.05 equiv.) was weighed into a 100 mL round bottomed flask, sealed and then dissolved in pyridine (80 mL). The 4,4′-dimethoxytrityl chloride solution was transferred to the stirring reaction mixture slowly, using additional fresh pyridine (20 mL) to effect the transfer of residual 4,4′-dimethoxytrityl chloride. The reaction was allowed to come to room temperature while stirring overnight. The reaction was concentrated in vacuo and re-dissolved in dichloromethane (300 mL). The organic phase was washed with saturated bicarbonate (2×200 mL) and brine (1×200 mL), dried over MgSO4, filtered, concentrated and dried under high vacuum to afford 22.19 g of a yellow gum that was used without further purification.

reactant | 3-Dimethylamino-1,2-propanediol | 50 mmol, 6.0 g | CN(CC(CO)O)C | C5H13NO2
reactant | 4,4′-Dimethoxytrityl chloride | 17.9 g, 1.05 equiv. | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4,4′-Dimethoxytrityloxy)-3-dimethylamino-2-propanol | 22.19 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCC(CN(C)C)O)C=C1 | C26H31NO4
